US07098226B2
4-[3-[3-[2-(1-Adamantyl)ethyl]-3-pentylureido]propyl]-1-methylpyridinium iodide (Compound No. 4-1)
Methyl iodide (90 μl, 1.5 mmol) was added to a solution of 1-[2-(1-adamantyl)ethyl]-1-pentyl-3-[3-(4-pyridyl)propyl]urea (Compound No. 1-1) (0.30 g, 0.73 mmol) in acetone (1.5 ml) at room temperature, and the mixture was stirred overnight. The solvent was evaporated under reduced pressure from the reaction mixture, and the precipitated crystals were filtered off with ethyl acetate to give 389 mg (96%) of the titled compound.

reactant | Methyl iodide | 1.5 mmol, 90 μl | CI | CH3I
reactant | 1-[2-(1-adamantyl)ethyl]-1-pentyl-3-[3-(4-pyridyl)propyl]urea | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)CCCCC | C26H41N3O
solvent | acetone | 1.5 ml | CC(=O)C | C3H6O
product | 4-[3-[3-[2-(1-Adamantyl)ethyl]-3-pentylureido]propyl]-1-methylpyridinium iodide | 389 mg, 96% | [I-].C12(CC3CC(CC(C1)C3)C2)CCN(C(NCCCC2=CC=[N+](C=C2)C)=O)CCCCC | InChI=1S/C27H43N3O.HI/c1-3-4-5-12-30(26(31)28-11-6-7-22-8-13-29(2)14-9-22)15-10-27-19-23-16-24(20-27)18-25(17-23)21-27;/h8-9,13-14,23-25H,3-7,10-12,15-21H2,1-2H3;1H
